US04062864
3-(Dimethylamino)-8-cyano-1,2,3,4-tetrahydrocarbazole
3-(Dimethylamino)-8-bromo-1,2,3,4-tetrahydrocarbazole (18.8 g.)(Example 211) and 17.5 g. of cuprous cyanide in 150 ml. of dimethylformamide was heated under reflux for four hours. The warm reaction mixture was poured into a solution of 200 ml. of ethylenediamine in 400 ml. of water. This was mixed thoroughly and extracted several times with chloroform. The chloroform layer was separated and washed with a dilute solution of ethylenediamine, water, saturated salt solution, and evaporated to dryness to give, after recrystallization from benzene, 6.9 g. of 3-(dimethylamino)-8-cyano-1,2,3,4-tetrahydrocarbazole, m.p. 177°-179° C.

reactant | 3-(Dimethylamino)-8-bromo-1,2,3,4-tetrahydrocarbazole | 18.8 g | CN(C1CCC=2NC3=C(C=CC=C3C2C1)Br)C | C14H17BrN2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | ethylenediamine | C(CN)N | C2H8N2
solvent | water | O | H2O
product | 3-(Dimethylamino)-8-cyano-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2NC3=C(C=CC=C3C2C1)C#N)C | C15H17N3
